US05410082
69.9 g (0.5 mol) of 2,6-difluorobenzonitrile and 237 g (1.2 mol) of 6-normal sodium hydroxide solution are initially introduced in 200 ml of benzyl alcohol. 221 g (1.95 mol) of 30% hydrogen peroxide solution are added dropwise to this mixture within the space of 30 min, the temperature rising from 20° C., at the beginning of the metering-in, to 50° C., and then being maintained at this value. After 5 h (complete transformation to 2-benzyloxy-6-fluorobenzamide can be demonstrated by GC), the mixture is cooled and supplemented with 200 g of water and 60 g (1.5 mol) of sodium hydroxide. Chlorine is passed in (8-10 l/h) at 30° C. for 2 h, with the reaction being monitored by gas chromatography and terminated once the amide has disappeared. The phases are separated, 180 g of methanol are added to the organic phase, and further processing is carried out as indicated in Example 8. 32.4 g (0.255 mol, 51%) of 2-amino-3-fluorophenol are obtained as a brown-black powder.

reactant | 2,6-difluorobenzonitrile | 0.5 mol, 69.9 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | sodium hydroxide | 1.2 mol, 237 g | [OH-].[Na+]
reactant | hydrogen peroxide | 1.95 mol, 221 g | OO | H2O2
reactant | 2-benzyloxy-6-fluorobenzamide | C(C1=CC=CC=C1)OC1=C(C(=O)N)C(=CC=C1)F | C14H12FNO2
reactant | sodium hydroxide | 1.5 mol, 60 g | [OH-].[Na+]
reactant | Chlorine | ClCl | Cl2
solvent | benzyl alcohol | 200 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | water | 200 g | O | H2O
product | 2-amino-3-fluorophenol | 0.255 mol, 32.4 g, 51% | NC1=C(C=CC=C1F)O | C6H6FNO
